US07776882B2
Step B: 2-nitro-5-phenoxy-phenyl-methanol
2-nitro-5-phenoxy-benzaldehyde (2.0 g, 8.22 mmol) was dissolved in methanol (20 mL) and cooled with an ice bath to 0° C. Sodium borohydride (0.9 g, 24.66 mmol) was added in 4 portions over 20 minutes and the reaction mixture was allowed to stir at 0° C. for one hour. A solution of sodium carbonate (10% w/v in water) was added to quench the reaction followed by pouring the crude reaction mixture into a separatory funnel with ethyl acetate. The organic layer washed 3 times with 10% sodium carbonate solution followed by one wash with saturated brine. The phases were separated and the organic layer was dried with sodium sulfate and filtered, and the ethyl acetate was removed under reduced pressure to yield the a white solid.

reactant | 2-nitro-5-phenoxy-benzaldehyde | 8.22 mmol, 2.0 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OC1=CC=CC=C1 | C13H9NO4
reactant | Sodium borohydride | 24.66 mmol, 0.9 g | [BH4-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 2-nitro-5-phenoxy-phenyl-methanol | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=CC=C1)CO | C13H11NO4
